US08623875B2
Step A: 2-[4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-1-naphthalenyl]-5(4H)-oxazolone
A mixture of N-[[4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-1-naphthalenyl]carbonyl]glycine (510 mg) and PS (polymer supported)-carbodiimide (1.69 g, 123 mmol/g) in dichloromethane (25 mL) was stirred at room temperature overnight. The reaction mixture was filtered through a short pad of Celite® diatomaceous filter aid and rinsed with dichloromethane. The filtrate was concentrated to provide the title compound (400 mg, 81% yield) as a pale yellow solid used directly for next step.

reactant | N-[[4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-1-naphthalenyl]carbonyl]glycine | 510 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C(=O)NCC(=O)O)C(F)(F)F | C23H15Cl2F3N2O4
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-[4-[5-(3,5-dichlorophenyl)-4,5-dihydro-5-(trifluoromethyl)-3-isoxazolyl]-1-naphthalenyl]-5(4H)-oxazolone | 400 mg, 81% yield | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)C=1OC(CN1)=O)C(F)(F)F | C23H13Cl2F3N2O3
